US05081254
Ethyl 7-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
A solution of 4.70 g (11.3 mmol) of ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-[(cyclopropylamino) methylene]-2,5-difluoro-β-oxobenzenepropionate in 35 ml of t-butyl alcohol was treated with 1.26 g (11.3 mmol) potassium t-butoxide and stirred in an oil bath at 65° C. for 5.5 hours. The mixture was evaporated under vacuum and the residue was dissolved in chloroform and extracted with 0.5 N hydrochloric acid. The organic layer was dried (MgSO4), evaporated and the title compound purified by chromatograph on silica gel and crystallization from toluene, mp 190°-192° C.

reactant | ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-[(cyclopropylamino) methylene]-2,5-difluoro-β-oxobenzenepropionate | 11.3 mmol, 4.70 g | C(C)(=O)N1CCC(=CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=CNC1CC1)=O)F | C22H24F2N2O4
reactant | potassium t-butoxide | 11.3 mmol, 1.26 g | CC(C)([O-])C.[K+]
solvent | t-butyl alcohol | 35 ml | C(C)(C)(C)O | C4H10O
product | Ethyl 7-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | C(C)(=O)N1CCC(=CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C22H23FN2O4
